US04337250
1-Benzyl-4-(4-chlorobutyryl)piperazine
N-Benzylpiperazine (1.0 g, 5.7 mmole) and triethylamine (1.17 ml, 8.5 mmole) were combined in 20 ml of methylene chloride. 4-Chlorovaleryl chloride (0.945 ml, 8.5 mmole) in 10 ml of methylene chloride was added dropwise over 20 minutes and the reaction mixture stirred for 16 hours at room temperature. Water (20 ml) was then added and the organic layer dried (anhydrous magnesium sulfate) and evaporated in vacuo to a gum. The gum was chromatographed on silica gel with ethyl acetate as eluant and tlc monitoring. Clean product fractions were combined and evaporated to yield the title product as a gum [920 mg, Rf 0.5 (ethyl acetate)].

reactant | N-Benzylpiperazine | 5.7 mmole, 1.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 8.5 mmole, 1.17 ml | C(C)N(CC)CC | C6H15N
reactant | 4-Chlorovaleryl chloride | 8.5 mmole, 0.945 ml | ClC(CCC(=O)Cl)C | C5H8Cl2O
reactant | Water | 20 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(4-chlorobutyryl)piperazine | 920 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(CCCCl)=O | C15H21ClN2O
